US06569856B2
N′-[4-(aminomethyl)cyclohexyl]methyl-N,N-dimethylsulfamide
Dimethylsulfamoyl chloride (one mol-equivalent, ClSO2N(CH3)2) was added to a stirred solution of 1,4-bis-aminomethylcyclohexane (3 mol-equivalents) and diisopropylethylamine (1 mol-equivalent) in dichloromethane at 0° C. The reaction mixture was stirred at room temperature for 24 hours, concentrated under reduced pressure and chromatographed (silica) to give the desired product as viscous oils. (Scheme 1A)

reactant | Dimethylsulfamoyl chloride | one mol | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 1,4-bis-aminomethylcyclohexane | 3 mol | NCC1CCC(CC1)CN | C8H18N2
reactant | diisopropylethylamine | 1 mol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N′-[4-(aminomethyl)cyclohexyl]methyl-N,N-dimethylsulfamide | NCC1CCC(CC1)CNS(=O)(=O)N(C)C | C10H23N3O2S
